* Pressure Sensor Signal Conditioning Circuit Simulation
* Transient analysis to verify amplification and filtering

* Sensor modeled as a voltage source with noise
Vsensor IN 0 PULSE(0 0.01 0 1u 1u 5m 10m)

* Simple RC low-pass filter to remove high-frequency noise
R1 IN OUT 10k
C1 OUT 0 0.1uF

* Operational amplifier modeled as ideal voltage follower (buffer)
E1 BUF 0 OUT 0 1

* Output load resistor
Rload BUF 0 10k

.tran 0 10m 0 1u
.control
run
plot V(IN) V(BUF)
.endc

.end
